US04870063
5,5-Dimethyl-3-thiomorpholinone
2,2-Dimethylaziridine (35.5 g) was added dropwise with stirring at 100° C. to methyl mercaptoacetate (53 g) during 1.5 hours. After a further 2 hours at 100° C., the mixture was cooled and crystallized from ethyl acetate. Melting point: 151-152° C.

reactant | 2,2-Dimethylaziridine | 35.5 g | CC1(NC1)C | C4H9N
reactant | methyl mercaptoacetate | 53 g | SCC(=O)OC | C3H6O2S
product | 5,5-Dimethyl-3-thiomorpholinone | CC1(CSCC(N1)=O)C | C6H11NOS
